US07906654B2
To a stirred solution of 2-(4-acetyl-2-chlorophenyl)-2-methylpropanenitrile (1.57 g, 7.08 mmol) in 7 M ammonia in methanol solution (35 mL) is added freshly distilled titanium (IV) isopropoxide (4.2 mL, 14.2 mmol). The reaction mixture is left stirring 18 h at room temperature. After cooling to 0° C., sodium borohydride (0.40 g, 10.6 mmol) is added and the reaction mixture is stirred at 0° C. until no more gas evolved and then at room temperature for 4 h. Water (40 mL) is then added and the titanium oxide is removed by filtration on a Buchner funnel. The filtrate is extracted with EtOAc (3×50 mL) and the combined organic layers are concentrated under reduced pressure. The resulting residue is dissolved in Et2O (200 mL), washed with brine, dried over anhydrous MgSO4 and filtered. To this solution is then added 5 N HCl in 2-propanol (1.8 mL, 8.85 mmol). The resulting precipitate is filtered on a Buchner funnel and dried to provide the desired 2-(4-(1-aminoethyl)-2-chlorophenyl)-2-methylpropanenitrile hydrochloride (1.17 g, 64%) as a white solid. 1H NMR (300 MHz, CD3OD): δ 7.69 (1H, d, J=10.7 Hz), 7.68 (1H, s), 7.52 (1H, dd, J=8.3, 2.0 Hz), 4.53 (1H, q, J=6.8 Hz), 1.90 (6H, s), 1.66 (3H, d, J=6.9 Hz).

reactant | 2-(4-acetyl-2-chlorophenyl)-2-methylpropanenitrile | 7.08 mmol, 1.57 g | C(C)(=O)C1=CC(=C(C=C1)C(C#N)(C)C)Cl | C12H12ClNO
reactant | sodium borohydride | 10.6 mmol, 0.40 g | [BH4-].[Na+]
reactant | HCl | 5 N | Cl | ClH
reactant | 2-propanol | 8.85 mmol, 1.8 mL | CC(C)O | C3H8O
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 35 mL | CO | CH4O
catalyst | titanium (IV) isopropoxide | 14.2 mmol, 4.2 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | Water | 40 mL | O | H2O
product | 2-(4-(1-aminoethyl)-2-chlorophenyl)-2-methylpropanenitrile hydrochloride | 1.17 g, 64% | Cl.NC(C)C1=CC(=C(C=C1)C(C#N)(C)C)Cl | InChI=1S/C12H15ClN2.ClH/c1-8(15)9-4-5-10(11(13)6-9)12(2,3)7-14;/h4-6,8H,15H2,1-3H3;1H
